US07179804B2
4-methyl-4-trimethylsilanyloxy-pent-2-ynal
Dissolve 3-methyl-3-trimethylsilyloxy-1-butyne (8.35 g, 53.4 mmol) in THF (200 mL) and cool to 40° C. Add n-butyllithium (26.7 mL of a 2.0 M solution in cyclohexane, 53.4 mmol, 1 eq.) dropwise over a 5 minute period. Stir for 10 min., then add dry DMF (8.27 mL, 7.81 g, 107 mmol, 2 eq.) in one portion. After 30 min., pour into a cooled (0° C.), vigorously stirred mixture of 10% KH2PO4 (290 mL, 213 mmol) and ether (300 mL). Separate the layers and wash the organic layer with water (2×200 mL). Dry (MgSO4), filter, and concentrate to give 9.4 g (94% crude) of a light oil. Use without further purification. TLC: Rf=0.40 (20:1 hexanes/EtOAc); 1H NMR (CDCl3, 300 MHz) δ 9.03 (s, 1H), 1.35 (s, 6H), 0.02 (s, 9H).

reactant | 3-methyl-3-trimethylsilyloxy-1-butyne | 53.4 mmol, 8.35 g | CC(C#C)(C)O[Si](C)(C)C | C8H16OSi
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | 107 mmol, 8.27 mL, 7.81 g, 2 eq. | CN(C)C=O | C3H7NO
reactant | KH2PO4 | 213 mmol, 290 mL | OP(=O)(O)[O-].[K+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | ether | 300 mL | CCOCC | C4H10O
product | 4-methyl-4-trimethylsilanyloxy-pent-2-ynal | CC(C#CC=O)(C)O[Si](C)(C)C | C9H16O2Si
